US07354932B2
Compound 100: Preparation of N1-(1H-Benzimidazol-2-ylmethyl)-N1-(4-methoxy-5,6,7,8-tetrahydro-quinolin-8-yl)-butane-1,4-diamine (Hydrobromide Salt)
To a solution of 2-{[[4-(1,3-Dioxo-1,3-dihydro-isoindol-2-yl)-butyl]-(4-methoxy-5,6,7,8-tetrahydro-quinolin-8-yl)-amino]-methyl}-benzimidazole-1-carboxylic acid tert-butyl ester (0.133 g, 0.22 mmol) in ethanol (4 mL) was added hydrazine monohydrate (0.20 mL, 4.12 mmol) and the resultant mixture was stirred at room temperature overnight. The mixture was filtered through filter paper and concentrated. Purification of the crude material by column chromatography on silica gel (10:1:1 CH2Cl2—CH3OH—NH4OH) provided 56 mg (68%) of the free base of the title compound as a yellow oil.

reactant | 2-{[[4-(1,3-Dioxo-1,3-dihydro-isoindol-2-yl)-butyl]-(4-methoxy-5,6,7,8-tetrahydro-quinolin-8-yl)-amino]-methyl}-benzimidazole-1-carboxylic acid tert-butyl ester | 0.22 mmol, 0.133 g | C(C)(C)(C)OC(=O)N1C(=NC2=C1C=CC=C2)CN(C2CCCC=1C(=CC=NC21)OC)CCCCN2C(C1=CC=CC=C1C2=O)=O | C35H39N5O5
reactant | hydrazine monohydrate | 4.12 mmol, 0.20 mL | O.NN
solvent | ethanol | 4 mL | C(C)O | C2H6O
product | N1-(1H-Benzimidazol-2-ylmethyl)-N1-(4-methoxy-5,6,7,8-tetrahydro-quinolin-8-yl)-butane-1,4-diamine | 56 mg, 68% | N1C(=NC2=C1C=CC=C2)CN(CCCCN)C2CCCC=1C(=CC=NC21)OC | C22H29N5O
